US09216968B2
N-[2-(Trifluoromethyl)benzyl]-5-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-2,3-dihydro-1-benzofuran-7-carboxamide
To a solution of 5-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-2,3-dihydro-1-benzofuran-7-carboxylic acid (35 mg) in DMF (2 mL), N′-(ethylcarbonimidoyl)-N,N-dimethyl-1,3-propanediamine hydrochloride (23 mg), 1-hydroxybenzotriazol (23 mg) and triethylamine (17 μL) were added. Under ice-cooling, to the mixture was added 2-(trifluoromethyl)benzylamine (15 μL), and it was stirred at room temperature overnight. The reaction mixture was poured into ice water, and extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was washed with n-hexane/ethyl acetate (1:1) and collected by filtration to obtain the titled compound (43 mg) as colorless powder. MS (ESI+) m/z 509 (M+H)+, Rt=2.31 minutes (method A)

reactant | 5-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-2,3-dihydro-1-benzofuran-7-carboxylic acid | 35 mg | FC(C1=C(C=CC=C1)C(=O)NC=1C=C(C2=C(CCO2)C1)C(=O)O)(F)F | C17H12F3NO4
reactant | N′-(ethylcarbonimidoyl)-N,N-dimethyl-1,3-propanediamine hydrochloride | 23 mg | Cl.C(C)C(=N)NCCCN(C)C
reactant | 1-hydroxybenzotriazol | 23 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-(trifluoromethyl)benzylamine | 15 μL | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 17 μL | C(C)N(CC)CC | C6H15N
product | N-[2-(Trifluoromethyl)benzyl]-5-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-2,3-dihydro-1-benzofuran-7-carboxamide | 43 mg | FC(C1=C(CNC(=O)C2=CC(=CC=3CCOC32)NC(=O)C3=C(C=CC=C3)C(F)(F)F)C=CC=C1)(F)F | C25H18F6N2O3
